US07612075B2
B. 7-Hydroxymethlyquinazolin-4-one.
A mixture of 2.0 g (19.1 mmole) of methyl 2-amino-4-hydroxymethlybenzoate in 4 ml of formamide is heated in an oil bath of 180° C. for three hours. The mixture is cooled and triturated with 70 ml of boiling ethyl acetate. The ethyl acetate is then decanted from the dark oil and cooled in a freezer overnight to precipitate 0.7 g 205-12° C. mp; 40% yield. 1H NMR (d6-DMSO, 300 MHz) δ 8.08 (s, 1H), 8.06 (d, 1H), 7.60 (s, 1H), 7.45 (d, 1H), 5.48 (bs, 1H), 4.65 (s, 2H), 3.35 (bs, 1H). EI MS, [M]+=176.

reactant | methyl 2-amino-4-hydroxymethlybenzoate | 19.1 mmole, 2.0 g | NC1=C(C(=O)OC)C=CC(=C1)CO | C9H11NO3
reactant | formamide | 4 ml | C(=O)N | CH3NO
product | 7-Hydroxymethlyquinazolin-4-one | OCC1=CC=C2C(NC=NC2=C1)=O | C9H8N2O2
